US07589232B2
Step a) Formation of methyl (4-{[{4-[(4-butylphenyl)ethynyl]benzyl}(cyanoacetyl)amino]methyl}phenoxy)acetate
The titled compound was prepared following the procedure H using methyl {4-[({4-[(4-butylphenyl)ethynyl]benzyl}amino)methyl]phenoxy}acetate and cyanoacetic acid, as a pale yellow oil (96%). M− (ESI): 507.4; M+ (ESI): 509.4. HPLC, Rt: 5.22 min (Purity: 86.2%).

reactant | methyl {4-[({4-[(4-butylphenyl)ethynyl]benzyl}amino)methyl]phenoxy}acetate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNCC2=CC=C(OCC(=O)OC)C=C2)C=C1 | C29H31NO3
reactant | cyanoacetic acid | C(#N)CC(=O)O | C3H3NO2
product | methyl (4-{[{4-[(4-butylphenyl)ethynyl]benzyl}(cyanoacetyl)amino]methyl}phenoxy)acetate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(CC#N)=O)CC2=CC=C(OCC(=O)OC)C=C2)C=C1 | C32H32N2O4
